US05290810
Preparation of 1-tertiarybutyldithio-2-methylaminocarbonylcyclopentene.
2-methyl-4,5-trimethylene-4-isothiazolin-3-one (0.78 parts) and sodium tertiary butyl mercaptan (0.56 parts) were stirred together in methanol (10 parts by volume) at 20° to 25° C. for 1 hour. The reactants were then drowned out into distilled water (100 parts by volume) and the disulphide reaction product (1 part) which separated was filtered and dried. The disulphide melted at 153°-5° C.

reactant | 2-methyl-4,5-trimethylene-4-isothiazolin-3-one | CN1C(=O)C2=C(S1)CCC2 | C7H9NOS
reactant | sodium tertiary butyl mercaptan | C(C)(C)(C)S.[Na]
solvent | methanol | CO | CH4O
product | 1-tertiarybutyldithio-2-methylaminocarbonylcyclopentene | C(C)(C)(C)SSC1=C(CCC1)C(=O)NC | C11H19NOS2
